US06207365B1
Synthesis of 3-(4,6-dimethoxy-2-hydroxyphenyl)-2-methyl-2-propenic acid ethyl ester
4,6-Dimethoxysalicylaldehyde (30.0 g, 165 mmol; Aldrich Inc.) and carboxyethylidene-triphosphorane (60.0 g, 166 mmol; Aldrich Inc.) were stirred in 300 ml of anhydrous benzene at room temperature overnight under a nitrogen atmosphere and the reaction was allowed to complete, during which period the reaction was conducted in a dark room. Then, the benzene solvent was removed in vacuo to give a crudely purified product. The resulting crude product was crudely purified by silica gel column chromatography (hexane/ethyl acetate 1:1 as a developing solvent) to give a mixture of cis- and trans-isomers. The thus obtained mixture was purified by column chromatography using aminopropyl-modified silica gel (300 g of NHDM-1020 silica gel available from Fuji Silicia Chemicals Co. Ltd; n-hexane/ethyl acetate 2:1 which elutes only the cis-isomer and chloroform/methanol 4:1 which elutes only the trans-isomer) to give 35.4 g of the desired product in 81% yield.

reactant | 4,6-Dimethoxysalicylaldehyde | 165 mmol, 30.0 g | COC=1C=C(C(C=O)=C(C1)OC)O | C9H10O4
reactant | carboxyethylidene-triphosphorane | 166 mmol, 60.0 g | C(=O)(O)CC=[PH2][PH3][PH4] | C3H13O2P3
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-(4,6-dimethoxy-2-hydroxyphenyl)-2-methyl-2-propenic acid ethyl ester | 35.4 g, 81% yield | C(C)OC(C(=CC1=C(C=C(C=C1OC)OC)O)C)=O | C14H18O5
